Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3],3.93515242518
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],6.3001916839
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],5.13160873872
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]=[O:7],2.74711988911
[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.795051669319999
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-5.27044696316
[H:1][C:2]#[C:3][C:8]([C:7]#[C:4][O:5][H:6])([H:9])[H:10]>>[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])[C:7][C:8]1([H:9])[H:10],2.2403270446400003
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]#[C:10][H:11],3.99608314126
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],1.49407176028
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:1][C:2][O:3][C:4]#[C:6][O:7][H:8].[H:5],3.01317724068
[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.10189609329
[H:1].[O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.598367441000001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11],4.81518528079
[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7],7.552361384380001
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.59420900204
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],2.74987277456
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13],3.94713659318
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14],0.60852636707
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.18418418567
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.43935164551
[O:1]=[C:2]=[C:5]([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.04634792877
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.83287359415
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.61434704255
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.66577938832
[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.49524020442
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],4.99508594611
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5],7.10189609329
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C@@:6]1([H:7])[C:8]([H:9])[H:10],1.23337945078
